US07368453B2
Synthesis of N-{3-[2-(2,4-dichlorophenyl)ethyl]-4-oxo-3,4-dihydro-7-quinazolinyl}-N′-[(1S,2S,3S,5R)-2,6,6-trimethylbicyclo[3.1.1]hept-3-yl]carbodiimide
N-{3-[2-(2,4-dichlorophenyl)ethyl]-4-oxo-3,4-dihydro-7-quinazolinyl}-N′-[(1S,2S,3S,5R)-2,6,6-trimethylbicyclo[3.1.1]hept-3-yl]thiourea was gently stirred with Argonaut PS-Carbodiimide (1.5 eq) for 15 hours in THF. The resin was filtered off and the solution of carbodiimide B was diluted to a known volume to give a solution of known molarity.

reactant | N-{3-[2-(2,4-dichlorophenyl)ethyl]-4-oxo-3,4-dihydro-7-quinazolinyl}-N′-[(1S,2S,3S,5R)-2,6,6-trimethylbicyclo[3.1.1]hept-3-yl]thiourea | ClC1=C(C=CC(=C1)Cl)CCN1C=NC2=CC(=CC=C2C1=O)NC(=S)N[C@@H]1[C@H]([C@H]2C([C@@H](C1)C2)(C)C)C | C27H30Cl2N4OS
reactant | Carbodiimide | 1.5 eq | N=C=N | CH2N2
solvent | THF | C1CCOC1 | C4H8O
product | N-{3-[2-(2,4-dichlorophenyl)ethyl]-4-oxo-3,4-dihydro-7-quinazolinyl}-N′-[(1S,2S,3S,5R)-2,6,6-trimethylbicyclo[3.1.1]hept-3-yl]carbodiimide | ClC1=C(C=CC(=C1)Cl)CCN1C=NC2=CC(=CC=C2C1=O)N=C=N[C@@H]1[C@H]([C@H]2C([C@@H](C1)C2)(C)C)C | C27H28Cl2N4O
